US09447035B2
Step 8: Preparation of (S)-2-[[1-(4-aminobutyl)cyclopentanecarbonyl]amino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid;
The title compound was prepared using a similar procedure as described in Example 1, Step 10, starting from (S)-2-[[1-(4-azidobutyl)cyclopentanecarbonyl]amino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid (1.02 g, 2 mmol) and trimethylphosphine (8 mL, 8 mmol, 1M) to obtain a white solid (0.96 g, 99%). ES(+)-HRMS m/e calcd. for C26H36N4O5 (M+H)+ 485.2759, obsd. 485.2757.

reactant | (S)-2-[[1-(4-azidobutyl)cyclopentanecarbonyl]amino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid | 2 mmol, 1.02 g | N(=[N+]=[N-])CCCCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O | C26H34N6O5
reactant | trimethylphosphine | 8 mmol, 1M, 8 mL | CP(C)C | C3H9P
product | (S)-2-[[1-(4-aminobutyl)cyclopentanecarbonyl]amino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid | NCCCCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O | C26H36N4O5
